US05236952
1.5 g 5-cyano-3,4-dimethoxy-4'-(trifluoromethyl)benzophenone (dissolved in 75 ml of methylene chloride) are treated at 5° with 2.18 ml of boron tribromide, whereupon the mixture is stirred at room temperature for 18 hours. The reaction mixture is subsequently diluted with 50 ml of methylene chloride. The mixture is heated under reflux for an additional 4 hours, treated at -70° with 15 ml of methanol, stirred at room temperature for 2 hours, evaporated, the residue is dried in vacuo and partitioned between ethyl acetate and ice-water. The aqueous phase is extracted twice more with ethyl acetate. The combined ethyl acetate phases are dried over sodium sulfate and evaporated. The thus-obtained material is stirred at 130° for 6 hours with 10 ml of acetic anhydride and 1 ml of pyridine. The mixture is evaporated and the residue is partitioned between ice-water and methylene chloride. The methylene chloride phase is dried over sodium sulfate and evaporated, and the residue is chromatographed on 30 g of silica gel with methylene chloride. The thus-obtained diacetate is dissolved in 10 ml of methanol. The solution is treated with 4.2 ml of 1N sodium hydroxide solution, stirred at 0° for 1 hour, neutralized with acetic acid, evaporated and partitioned between ethyl acetate and saturated sodium chloride solution. The ethyl acetate phases are dried over sodium sulfate and evaporated, and the residue is recrystallized from methylene chloride. There is obtained 5-cyano-3,4-dihydroxy-4'-(trifluoromethyl)benzophenone of melting point 204°-206°.

reactant | 5-cyano-3,4-dimethoxy-4'-(trifluoromethyl)benzophenone | 75 ml, 1.5 g | C(#N)C=1C(=C(C=C(C(=O)C2=CC=C(C=C2)C(F)(F)F)C1)OC)OC | C17H12F3NO3
reactant | boron tribromide | 2.18 ml | B(Br)(Br)Br | BBr3
reactant | methanol | 15 ml | CO | CH4O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-cyano-3,4-dihydroxy-4'-(trifluoromethyl)benzophenone | C(#N)C=1C(=C(C=C(C(=O)C2=CC=C(C=C2)C(F)(F)F)C1)O)O | C15H8F3NO3
